US05532235
N-[4-[(4,5-Dihydro-2-methylpyrazolo[3,4-d]thieno[3,2-b]azepin-6 (2H)-yl)carbonyl]phenyl]-2-methylbenzamide
As described for Example 5, 2,4,5,6-tetrahydro-2-methyl -6-(4-aminobenzoyl)pyrazolo[3,4-d]thieno[3,2-b]azepine is reacted with 2-methylbenzoyl chloride to give the product as crystals (from ethyl acetate), m.p. 257°-260° C.

reactant | 2,4,5,6-tetrahydro-2-methyl -6-(4-aminobenzoyl)pyrazolo[3,4-d]thieno[3,2-b]azepine | CN1N=C2C3=C(N(CCC2=C1)C(C1=CC=C(C=C1)N)=O)C=CS3 | C17H16N4OS
reactant | 2-methylbenzoyl chloride | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
product | N-[4-[(4,5-Dihydro-2-methylpyrazolo[3,4-d]thieno[3,2-b]azepin-6 (2H)-yl)carbonyl]phenyl]-2-methylbenzamide | CN1N=C2C3=C(N(CCC2=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C)=O)C=CS3 | C25H22N4O2S
